US07772271B2
A mixture of 4-(1-cyclopropylmethyl-6-ethoxy-3-fluoro-1H-indol-2-yl)-phenyl amine (30 mg, 0.093 mmol), pyridine (300 μL), and isopropylchloroformate (1 M in toluene, 110 μL, 0.11 mmol) was stirred at room temperature for 90 minutes. The residue was extracted with a mixture of EtOAc and aqueous HCl. The organic layer was washed with H2O and brine and then dried, concentrated and purified by silica gel chromatography (CH2Cl2/Hex, 1:1) to provide [4-(1-cyclopropylmethyl-6-ethoxy-3-fluoro-1H-indol-2-yl)-phenyl]-carbamic acid isopropyl ester (35 mg, 92%) as a white solid.

reactant | 4-(1-cyclopropylmethyl-6-ethoxy-3-fluoro-1H-indol-2-yl)-phenyl amine | 0.093 mmol, 30 mg | C1(CC1)CN1C(=C(C2=CC=C(C=C12)OCC)F)C1=CC=C(C=C1)N | C20H21FN2O
reactant | isopropylchloroformate | 0.11 mmol, 1 M, 110 μL | C(C)(C)OC(=O)Cl | C4H7ClO2
solvent | pyridine | 300 μL | N1=CC=CC=C1 | C5H5N
product | [4-(1-cyclopropylmethyl-6-ethoxy-3-fluoro-1H-indol-2-yl)-phenyl]-carbamic acid isopropyl ester | 35 mg, 92% | C(C)(C)OC(NC1=CC=C(C=C1)C=1N(C2=CC(=CC=C2C1F)OCC)CC1CC1)=O | C24H27FN2O3
